US04044017
3 g of L-alanyl-N-(2-benzoylphenyl)-N-methylglycinamide were dissolved in 10 ml of anhydrous sulphuric acid at room temperature. The resulting mixture was cooled to -5° C and treated dropwise by the addition of a solution of 0.94 g of potassium nitrate in 3 ml of anhydrous sulphuric acid. The resulting mixture was stirred at 0° C for 10 hours and finally allowed to warm to room temperature overnight. The mixture was then poured into an excess of ice-water. The pH of the mixture was adjusted to approximately pH 9 by the addition of concentrated ammonium hydroxide, care being taken to maintain the temperature at ca 0° C. The mixture obtained was extracted with several portions of dichloromethane. The combined organic phases were washed successively with 2-N sodium carbonate solution and water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue (ca 3 g) was dissolved in a minimum amount of chloroform and subjected to column chromatography on Florisil using mixtures of methanol in chloroform in increasing proportions. Fractions were collected using 5% (vol/vol) methanol in chloroform and evaporated in vacuo to give 1.75 g (52%) of pure L-alanyl-N-(2-benzoyl-4-nitrophenyl)-N-methylglycinamide as an almost colourless light-sensitive foam; [α]D20 = +2.1° (c = 1 in ethanol).

reactant | L-alanyl-N-(2-benzoylphenyl)-N-methylglycinamide | 3 g | N[C@@H](C)C(=O)NCC(=O)N(C)C1=C(C=CC=C1)C(C1=CC=CC=C1)=O | C19H21N3O3
reactant | potassium nitrate | 0.94 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | L-alanyl-N-(2-benzoyl-4-nitrophenyl)-N-methylglycinamide | 1.75 g, 52% | N[C@@H](C)C(=O)NCC(=O)N(C)C1=C(C=C(C=C1)[N+](=O)[O-])C(C1=CC=CC=C1)=O | C19H20N4O5
